US07589206B2
(a) 7-Chloro-4-iodo-3-methyl-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester
To a solution of 7-chloro-4-iodo-3-methyl-1H-pyrrolo[2,3-c]pyridine (2 g) in dry tetrahydrofuran (100 ml) at 0° C. under an atmosphere of nitrogen was added portionwise sodium hydride (60% dispersion in mineral oil, 600 mg). After addition, the solution was stirred at room temperature for 30 minutes. The solution was then recooled to 0° C. and a solution of di-tert-butyl dicarbonate (1.8 g) in dry tetrahydrofuran (20 ml) was added dropwise. The solution was stirred for 1 h allowing to warm to room temperature whereby a further portion of di-tert-butyl dicarbonate (375 mg) in dry tetrahydrofuran (4 ml) was added dropwise. The solution was stirred for 1 h allowing to warm to room temperature and then partitioned between ethyl acetate and water and washed with water until the pH of the aqueous was neutral. The organic layer was dried (MgSO4) and evaporated to give a brown oil which solidified. The solid was triturated with isohexane, filtered off, sucked dry then dried at 40° C. under vacuum to afford the title compound (1.27 g). The filtrate was evaporated, and purified by Biotage chromatography over silica gel (100 g), eluting with isohexane followed by 5% ethyl acetate/isohexane to give more of the title compound as a pale yellow solid. (890 mg).

reactant | 7-chloro-4-iodo-3-methyl-1H-pyrrolo[2,3-c]pyridine | 2 g | ClC=1N=CC(=C2C1NC=C2C)I | C8H6ClIN2
reactant | sodium hydride | 600 mg | [H-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 375 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 7-Chloro-4-iodo-3-methyl-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | 1.27 g | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2I)Cl)C | C13H14ClIN2O2
